US06673799B1
A 6.1 ml portion of 1 N aqueous sodium hydroxide was added to 10 ml of THF containing 1.20 g of 2-methoxy-6-methyl-4-pyridinecarboxylic acid ethyl ester and stirred at room temperature for 1 hour and 20 minutes, and then the reaction solvent was evaporated to obtain 2-methoxy-6-methyl-4-pyridinecarboxylic acid sodium salt. Thereafter, the title compound was obtained by the same procedure of Example 18-1.

reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | 2-methoxy-6-methyl-4-pyridinecarboxylic acid ethyl ester | C(C)OC(=O)C1=CC(=NC(=C1)C)OC | C10H13NO3
solvent | THF | 10 ml, 1.20 g | C1CCOC1 | C4H8O
product | 2-methoxy-6-methyl-4-pyridinecarboxylic acid sodium salt | [Na+].COC1=NC(=CC(=C1)C(=O)[O-])C | InChI=1S/C8H9NO3.Na/c1-5-3-6(8(10)11)4-7(9-5)12-2;/h3-4H,1-2H3,(H,10,11);/q;+1/p-1
